### PR TITLE
Fill-in proof for ProgramWF

### PR DESCRIPTION
**Pull request by thanhnguyen-aws**
*Description of changes:* Complete most basic steps for proving ProgramWF theorem. One missing component is that the typechecker needs to check (or infer) BoogieIdent visibility to ensure (and prove) the wellformness as defined. 

By submitting this pull request, I confirm that you can use, modify, copy, and redistribute this contribution, under the terms of your choice.

### CODE REVIEW

File: Strata/Languages/Boogie/ProgramWF.lean [hunk 1]
```diff
@@ -224,15 +259,22 @@ theorem Program.typeCheck.goWF : Program.typeCheck.go p T ds [] = .ok (ds', T')
   | nil => simp [Program.typeCheck.go] at tcok
            cases tcok; constructor <;> try assumption
   | cons h t t_ih =>
-    apply (List.Forall_cons (WF.WFDeclProp p) h t).mpr
+    --apply (List.Forall_cons (WF.WFDeclProp p) h t).mpr
+    --constructor
```
Comment (atomb) [inline Strata/Languages/Boogie/ProgramWF.lean]: I'd remove these two lines instead of commenting them out.

File: Strata/Languages/Boogie/StatementWF.lean [hunk 2]
```diff
@@ -17,13 +17,105 @@ namespace WF
 
 open Std Lambda
 
+theorem typeCheckCmdWF: Statement.typeCheckCmd T p c = Except.ok v
```
Comment (atomb) [inline Strata/Languages/Boogie/StatementWF.lean:20]: I have a feeling this could be more concise, but it would be a local optimization to improve it later.

File: Strata/Languages/Boogie/StatementWF.lean [hunk 3]
```diff
@@ -17,13 +17,105 @@ namespace WF
...
+  split at H <;> try contradiction
+  split at H <;> try contradiction
+  split at H <;> try contradiction
+  split at H <;> try contradiction
+  split at H <;> try contradiction
+  split at H <;> try contradiction
+  split at H <;> try contradiction
+  split at H <;> try contradiction
+  sorry
+  /-
```
Comment (atomb) [inline Strata/Languages/Boogie/StatementWF.lean]: I'd leave out this commented code unless you think it's really likely to be part of the full proof.

File: Strata/Languages/Boogie/StatementWF.lean [hunk 4]
```diff
@@ -17,13 +17,105 @@ namespace WF
...
+    = (fun arg => Forall (fun x: BoogieIdent => x.isGlobOrLocl = true) (@Imperative.HasVarsPure.getVars Expression (LExpr LMonoTy BoogieIdent) instHasVarsPureExpressionExpr arg)) :=by
+    ext;
+    constructor <;> intro H
+    exact H.glarg;
+    constructor; assumption
+  rw[this]; assumption
+  -/
+
+theorem List.append_cons_assoc {l t : List α} : l ++ h::t  = l ++ [h] ++ t := by simp
+theorem List.cons_append_assoc {l t : List α} : h::(t ++ l)  = (h::t) ++ l := by simp
```
Comment (atomb) [inline Strata/Languages/Boogie/StatementWF.lean]: I'm surprised these aren't in the standard library!

File: Strata/Languages/Boogie/StatementWF.lean [hunk 5]
```diff
@@ -17,13 +17,105 @@ namespace WF
...
+  any_goals (split <;> try contradiction)
+  any_goals (split <;> try contradiction)
+  any_goals (split <;> try contradiction)
+  any_goals (split <;> try contradiction)
+  any_goals (split <;> try contradiction)
+  any_goals (split <;> try contradiction)
+  any_goals (split <;> try contradiction)
+  any_goals (split <;> try contradiction)
+  any_goals (split <;> try contradiction)
+  any_goals (split <;> try contradiction)
```
Comment (atomb) [inline Strata/Languages/Boogie/StatementWF.lean]: Could you use `repeat` to simplify the previous 14 lines?

File: Strata/Languages/Boogie/StatementWF.lean [hunk 6]
```diff
@@ -32,28 +124,87 @@ theorem Statement.typeCheckAux_go_WF :
...
+      simp [WFStatementsProp] at *
+      simp [List.Forall_append, Forall, *]
+      constructor
+    | ite c t e md =>
+      simp [Except.bind] at tcok
+      split at tcok <;> try contradiction
+      split at tcok <;> try contradiction
+      split at tcok <;> try contradiction
+      split at tcok <;> try contradiction
+      split at tcok <;> try contradiction
```
Comment (atomb) [inline Strata/Languages/Boogie/StatementWF.lean]: Would `repeat` work here, too?

File: Strata/Languages/Boogie/StatementWF.lean [hunk 7]
```diff
@@ -32,28 +124,87 @@ theorem Statement.typeCheckAux_go_WF :
...
+      any_goals (try split at tcok <;> try contradiction)
+      any_goals (try split at tcok <;> try contradiction)
+      any_goals (try split at tcok <;> try contradiction)
+      any_goals (try split at tcok <;> try contradiction)
+      any_goals (try split at tcok <;> try contradiction)
+      any_goals (try split at tcok <;> try contradiction)
+      any_goals (try split at tcok <;> try contradiction)
+      any_goals (try split at tcok <;> try contradiction)
+      any_goals (try split at tcok <;> try contradiction)
+      any_goals (try split at tcok <;> try contradiction)
```
Comment (atomb) [inline Strata/Languages/Boogie/StatementWF.lean]: Would `repeat` work here, too?

File: Strata/Languages/Boogie/StatementWF.lean (hunk 2 above)
Comment (thanhnguyen-aws) [reply Strata/Languages/Boogie/StatementWF.lean:20]: I simplified it

File: Strata/Languages/Boogie/StatementWF.lean (hunk 4 above)
Comment (thanhnguyen-aws) [reply Strata/Languages/Boogie/StatementWF.lean]: Thanks, I found them and replaced.

**Review by atomb — APPROVED** [review]

**Review by aqjune-aws — APPROVED** [review]

**Comment by thanhnguyen-aws** [comment]
> Looks like there's a type error after merging with the latest `main`.

I fixed it.

**Review by atomb — APPROVED** [review]
